datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CO[C@H]1CC=C2CC[N:10]3CCC(CO)=C(CCO)[C@]23C1.O=P([O-])([O-])C([NH2+]Cc1ccncc1)c1ccccc1[O:21][H:20]>>CO[C@H]1CC=C2CC[N+:10]3([H:20])CCC(CO)=C(CCO)[C@]23C1.O=P([O-])([O-])C([NH2+]Cc1ccncc1)c1ccccc1[O-:21] 10=20;20,21=21",
"CN(C)CCOCC[N:10](C)C.Cc1ccccc1[N+](C)(C)[O:21][H:20]>>CN(C)CCOCC[N+:10](C)(C)[H:20].Cc1ccccc1[N+](C)(C)[O-:21] 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C1N2C[NH+]3CN1C[N+:21]([H:20])(C2)C3.[NH3+]CCCCCCNC(=S)[S-:10]>>C1N2C[NH+]3CN1C[N:21](C2)C3.[NH3+]CCCCCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"Nc1ncnc2c1nc[n:21]2[H:20].O=C(c1cc[nH]c1)[O-:10]>>Nc1ncnc2c1nc[n-:21]2.O=C(c1cc[nH]c1)[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1.Cc1ccccc1C(=NCCC[N+:21](C)(C)[H:20])c1ccccc1C>>CC(=O)c1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1.Cc1ccccc1C(=NCCC[N:21](C)C)c1ccccc1C 10=20;20,21=21",
"Cn1cnc2nc([O-])nc([O:21][H:20])c21.O=C([O-])CC[NH2:10]>>Cn1cnc2nc([O-])nc([O-:21])c21.O=C([O-])CC[NH2+:10][H:20] 10=20;20,21=21",
"CC[SH+]C(O)[O:21][H:20].Nc1ccc2ccc[n:10]c2c1>>CC[SH+]C(O)[O-:21].Nc1ccc2ccc[n+:10]([H:20])c2c1 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(C)[n+:21]2[H:20].C[N:10]1C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21>>COc1ccc(OC)c2c1n(C)c(C)[n:21]2.C[N+:10]1([H:20])C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21 10=20;20,21=21",
"COc1cc(CN)ccc1[O-:10].FC(F)(F)c1ncnc2nc[n:21]([H:20])c12>>COc1cc(CN)ccc1[O:10][H:20].FC(F)(F)c1ncnc2nc[n-:21]c12 10=20;20,21=21",
"COc1c[n+:21]([H:20])ccc1N.COc1cnccc1C(O)[O-:10]>>COc1c[n:21]ccc1N.COc1cnccc1C(O)[O:10][H:20] 10=20;20,21=21",
"CC(C)([NH3+])C[NH2+:21][H:20].Cc1ccc(C(=O)[O-:10])c(C)c1>>CC(C)([NH3+])C[NH2:21].Cc1ccc(C(=O)[O:10][H:20])c(C)c1 10=20;20,21=21",
"Brc1ccc(CC[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Brc1ccc(CC[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH2+]CCCCCC[NH:10]C(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)[NH2+]CCCCCC[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20].Cc1cc(C)cc(C(c2ccccc2)=[NH:10])c1>>CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21].Cc1cc(C)cc(C(c2ccccc2)=[NH+:10][H:20])c1 10=20;20,21=21",
"CC[N+:21](CC)(CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12)[H:20].[O-]c1ccc(Nc2ccc([O-:10])cc2)cc1>>CC[N:21](CC)CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12.[O-]c1ccc(Nc2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"CC(C(=O)[O-:10])c1ccc(-c2ccccc2)c(F)c1.O=C(/C=N/[O:21][H:20])CCl>>CC(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)c(F)c1.O=C(/C=N/[O-:21])CCl 10=20;20,21=21",
"CC[N:10](CC)Cc1cccc(C)c1O.Cc1cc(Br)cc(Br)c1[O:21][H:20]>>CC[N+:10](CC)(Cc1cccc(C)c1O)[H:20].Cc1cc(Br)cc(Br)c1[O-:21] 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.[O-]c1nc2nc[nH]c2c[n+:21]1[H:20]>>C#C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.[O-]c1nc2nc[nH]c2c[n:21]1 10=20;20,21=21",
"Nc1ccc(Cl)c[n:10]1.O=C1Nc2cncnc2NC1=C1Nc2nc[n+:21]([H:20])cc2NC1=O>>Nc1ccc(Cl)c[n+:10]1[H:20].O=C1Nc2cncnc2NC1=C1Nc2nc[n:21]cc2NC1=O 10=20;20,21=21",
"CCOC(=S)[N:21](C(=O)c1ccccc1)[H:20].O=C1CCCC(=O)[N-:10]1>>CCOC(=S)[N-:21]C(=O)c1ccccc1.O=C1CCCC(=O)[N:10]1[H:20] 10=20;20,21=21",
"[H:20][NH2+:21]CC#N.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C(C#N)[NH2:21] 10=20;20,21=21",
"CC[N:10](CC)[C@H]1CCC[C@@H]1N(C)C.O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>CC[N+:10](CC)([C@H]1CCC[C@@H]1N(C)C)[H:20].O=C([C@@H]1O[C@H](Oc2ccc3[nH+]c(O)ccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"Cc1cc(C)n(-c2cc(C)n(C)[n+:21]2[H:20])n1.O=C([O-])c1ccc([O-:10])c2ncccc12>>Cc1cc(C)n(-c2cc(C)n(C)[n:21]2)n1.O=C([O-])c1ccc([O:10][H:20])c2ncccc12 10=20;20,21=21",
"C[C@@H]1CNC[C@H](C)[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O-:10])c1O.Cc1ccccc1[NH+:21](C1CCCC1)[H:20]>>Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O:10][H:20])c1O.Cc1ccccc1[NH:21]C1CCCC1 10=20;20,21=21",
"C=C[C@H]1C[N+:21]2([H:20])CC[C@@H]1CC2C(=O)[O-].C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O-:10]>>C=C[C@H]1C[N:21]2CC[C@@H]1CC2C(=O)[O-].C[NH+](C)CCCCCCCCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"CC[NH:10]C(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](C(C)C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(N)C(C)(C)[NH2+:21][H:20].[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:10]1CCCCC1>>CC(C)(N)C(C)(C)[NH2:21].[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"Cc1ccnc(NS(=O)(=O)c2ccccc2)[n:10]1.O=C([O-])c1ccc2ccccc2[n+:21]1[H:20]>>Cc1ccnc(NS(=O)(=O)c2ccccc2)[n+:10]1[H:20].O=C([O-])c1ccc2ccccc2[n:21]1 10=20;20,21=21",
